US07601850B2
C. 2-[5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethoxy]-acetic acid methyl ester
T a 0° C. solution of 5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-yl-methanol (0.96 g, 1.85 mmol) in THF (10 mL) is added 60% NaH (81 mg, 2.0 mmol) and stirred for 20 m. The mixture is added methyl bromoacetate (0.21 mL, 2.22 mmol)warmed to RT, and stirred overnight. The reaction is quenched with satd NH4Cl (10 mL), diluted with H2O (10 mL), and extracted with EtOAc (2×20 mL). The combined organic layers is MgSO4 dried and concentrated. The resulting residue is chromatographed to give the title compound (0.33 g, 0.57 mmol, 31%). 1H NMR (CDC3), δ 0.06 (s, 3H), 0.12 (s, 3H), 0.70 (t, J=7.3 Hz, 6H), 0.91 (s, 9H), 0.97 (s, 9H), 2.01-2.10 (m, 4H), 2.19 (s, 3H), 2.20 (s, 3H), 3.67 (dd, J=5.8, 3.4 Hz, I H), 3.76 (s, 3H), 3.85 (dd, J=9.8, 5.8 Hz, 1H), 3.98 (dd, J=9.8, 3.4 Hz, 1H), 4.09 (s, 2H), 4.64 (s, 2H), 6.53 (s, 1H), 6.67 (d, J=8.3 Hz, I H), 7.00-7.06 (m, 2H). LC/MS (m/z): calcd for C 10 33H58NO5SSi (M+NH4)+: 608.9; found: 608.3.

reactant | 5-(1-{4-[2-(tert-butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-yl-methanol | 1.85 mmol, 0.96 g | C(C)(C)(C)[Si](OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(S1)CO)C)C)C(C)(C)C)(C)C | C30H50O3SSi
reactant | NaH | 2.0 mmol, 81 mg | [H-].[Na+]
reactant | methyl bromoacetate | 2.22 mmol, 0.21 mL | BrCC(=O)OC | C3H5BrO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[5-(1-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-3,3-dimethyl-butoxy]-3-methyl-phenyl}-1-ethyl-propyl)-3-methyl-thiophen-2-ylmethoxy]-acetic acid methyl ester | 0.57 mmol, 0.33 g, 31% | COC(COCC=1SC(=CC1C)C(CC)(CC)C1=CC(=C(C=C1)OCC(C(C)(C)C)O[Si](C)(C)C(C)(C)C)C)=O | C33H54O5SSi
